US06911468B2
(1) 2-(2-{3-[2-(4-Benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]propoxy}phenyl)-1,3-benzoxazole
To a solution of 3-[2-(4-benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]propan-1-ol (1.00 g, 3.11 mmol), 2-(2-hydroxyphenyl)benzoxazole (986 mg, 4.67 mmol) and triphenylphosphine (1.22 g, 4.67 mmol) in toluene (2 ml) was added 1,1′-(azodicarbonyl)dipiperidine (1.18 g, 4.67 mmol) and the mixture was stirred at 80° C. for 12 hours. The reaction solution was poured into water and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate anhydride and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:1) to give the object compound as an oily substance. 950 mg (yield: 59.4%)

reactant | 3-[2-(4-benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]propan-1-ol | 3.11 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CCCO | C21H23NO2
reactant | 2-(2-hydroxyphenyl)benzoxazole | 4.67 mmol, 986 mg | OC1=C(C=CC=C1)C=1OC2=C(N1)C=CC=C2 | C13H9NO2
reactant | triphenylphosphine | 4.67 mmol, 1.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 4.67 mmol, 1.18 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(2-{3-[2-(4-Benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]propoxy}phenyl)-1,3-benzoxazole | yield: 59.4% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CCCOC1=C(C=CC=C1)C=1OC2=C(N1)C=CC=C2 | C34H30N2O3
